US07320993B1
5-hydroxy-5,5-diphenyl-pentylamine
Batch size: 5.0 g (13.0 mmol) 2-(5-hydroxy-5,5-diphenyl-pentyl)-isoindol-1,3-dione and 1.3 g (26.0 mmol) hydrazine hydrate in 50 ml ethanol.

reactant | 2-(5-hydroxy-5,5-diphenyl-pentyl)-isoindol-1,3-dione | 13.0 mmol, 5.0 g | OC(CCCCN1C(C2=CC=CC=C2C1=O)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23NO3
reactant | hydrazine hydrate | 26.0 mmol, 1.3 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-hydroxy-5,5-diphenyl-pentylamine | OC(CCCCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H21NO
